US07906546B2
(RS,SR)-7-chloro-2-[(3-chloro-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[b]indole
In analogy to example 74.6, from (RS,SR)-3-[(3-chloro-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-cyclopentanone and (4-chloro-phenyl)-hydrazine hydrochloride was prepared (RS,SR)-7-chloro-2-[(3-chloro-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[D]indole as a light brown solid, MS: 480 (MH+).

reactant | (RS,SR)-3-[(3-chloro-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-cyclopentanone | ClC=1C=C(C=CC1)S(=O)(=O)C(C1CC(CC1)=O)(C=1OC(=NN1)C)F | C15H14ClFN2O4S
reactant | (4-chloro-phenyl)-hydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | (RS,SR)-7-chloro-2-[(3-chloro-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[D]indole | ClC=1C=2C3(CC(NC3=CC1)C(C=1OC(=NN1)C)(F)S(=O)(=O)C1=CC(=CC=C1)Cl)CCC2 | C21H18Cl2FN3O3S
product | (RS,SR)-7-chloro-2-[(3-chloro-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[b]indole | ClC1=CC=2C3=C(NC2C=C1)CC(C3)C(C=3OC(=NN3)C)(F)S(=O)(=O)C3=CC(=CC=C3)Cl | C21H16Cl2FN3O3S
